US07425637B2
Step E: 6-(4-Bromo-2-methyl-phenylamino)-7-fluoro-3-(4-oxo-butyl)-3H benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide 11n:
To a mixture of 6-(4-bromo-2-methyl-phenylamino)-3-(4,5-dihydroxy-pentyl)-7-fluoro-3H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide 11 m (0.244 g, 0.456 mmol), THF (5 mL) and pH 7 phosphate buffer (3 mL) is added sodium periodate (0.195 g, 0.911 mmol). After 16 hours, the reaction mixture is diluted with ethyl acetate and washed with NaHCO3, and brine. The organic layer is dried (Na2SO4) and concentrated under reduced pressure to give an orange solid. Purification by FCC eluted with 4:1 methylene chloride/MeOH yields 0.189 g (82%) pure desired product as a yellow solid: MS APCI (+) m/z 505, 503 (M+1 Br pattern) detected; MS APCI (−) m/z 503, 501 (M−1 Br pattern) detected.

reactant | 6-(4-bromo-2-methyl-phenylamino)-3-(4,5-dihydroxy-pentyl)-7-fluoro-3H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide | C1(CC1)CONC(=O)C1=CC2=C(N=CN2CCCC(CO)O)C(=C1NC1=C(C=C(C=C1)Br)C)F | C24H28BrFN4O4
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | phosphate | 3 mL, pH 7 | P(=O)([O-])([O-])[O-]
reactant | sodium periodate | 0.911 mmol, 0.195 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-Bromo-2-methyl-phenylamino)-7-fluoro-3-(4-oxo-butyl)-3H benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide | 0.189 g, 82% | C1(CC1)CONC(=O)C1=CC2=C(N=CN2CCCC=O)C(=C1NC1=C(C=C(C=C1)Br)C)F | C23H24BrFN4O3
